US04444770
2-Methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole-5-carbaldehyde
60 ml of phosphorus oxychloride were added dropwise to 180 ml of dimethylformamide, whilst cooling. A further 400 ml of dimethylformamide, and 130 g (0.6 mole) of 2-methyl-6-phenylimidazo[2,1-b]-1,3,4-thiadiazole were then added and the mixture was warmed to 100° C. for 2 hours. It was poured onto 3 kg of ice, 410 g of 40% strength sodium hydroxide solution were added and the mixture was heated rapidly to 90° C. After 5 minutes, it was cooled and the product was filtered off. Yield: 132 g (90% of theory) of melting point 152° to 153° C.

reactant | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methyl-6-phenylimidazo[2,1-b]-1,3,4-thiadiazole | 0.6 mole, 130 g | CC1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C11H9N3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole-5-carbaldehyde | CC1=NN2C(S1)=NC(=C2C=O)C2=CC=CC=C2 | C12H9N3OS
